US07192950B2
N-Benzyl-2-[5-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetamide
prepared by reaction of 2-bromoacetyl bromide with benzylamine and 5-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine.

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine | COC=1C=C(CC2NCCOC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C20H25NO5
product | N-Benzyl-2-[5-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetamide | C(C1=CC=CC=C1)NC(CN1CCOC2=C(C1CC1=CC(=C(C=C1)OC)OC)C=C(C(=C2)OC)OC)=O | C29H34N2O6
